US05817670
Sodium hydride (210 mg, 60% dispersion) was added to a dioxane solution (100 ml) of 4-phenyl-1,8-naphthyridin-2(1H)-one (1.01 g, 4.55 mmol), and the mixture was stirred at 110° C. for 30 minutes. After cooling to room temperature, propargyl bromide (650 mg, 5.46 mmol) and lithium bromide (830 mg, 9.55 mmol) were added, and the mixture was heated under reflux for 2 days. After cooling to room temperature, brine was added, and the mixture was extracted with chloroform. The organic layer was washed with brine and dried over anhydrous sodium sulfate. After removing sodium sulfate by filtration, the solvent was evaporated under reduced pressure and the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) and further recrystallized from diisopropyl ether to give 4-phenyl-1-propargyl-1,8-naphthyridin-2(1H)-one (107 mg, 9%).

reactant | Sodium hydride | 210 mg | [H-].[Na+]
reactant | 4-phenyl-1,8-naphthyridin-2(1H)-one | 4.55 mmol, 1.01 g | C1(=CC=CC=C1)C1=CC(NC2=NC=CC=C12)=O | C14H10N2O
reactant | propargyl bromide | 5.46 mmol, 650 mg | C(C#C)Br | C3H3Br
reactant | lithium bromide | 9.55 mmol, 830 mg | [Br-].[Li+]
solvent | brine | [Cl-].[Na+].O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-phenyl-1-propargyl-1,8-naphthyridin-2(1H)-one | 107 mg, 9% | C1(=CC=CC=C1)C1=CC(N(C2=NC=CC=C12)CC#C)=O | C17H12N2O
